US06184236B2
A mixture of (RS)-[3-(4-methoxy-phenyl)-cyclohex-2-enyl]-phenethyl-amine (1.5 g, 4.88 mmol), 10% Pd/C (0.3 g) and MeOH (30 ml) was hydrogenated for 3 h. Removal of the catalyst, evaporation of the solvent and separation of the isomers by flash-chromatography over SiO2 (Biotage 40, 90 g) eluting with AcOEt gave (1RS,3SR)-[3-(4-methoxy-phenyl)-cyclohexyl]-phenethyl-amine (0.57 g, 38%, light yellow oil, MS: m/e=310.2 (M+H+)) and (1RS,3RS)-[3-(4-methoxy-phenyl)-cyclohexyl]-phenethyl-amine (0.25 g, 17%, light yellow oil, MS: m/e=310.2 (M+H+)).

reactant | (RS)-[3-(4-methoxy-phenyl)-cyclohex-2-enyl]-phenethyl-amine | 4.88 mmol, 1.5 g | COC1=CC=C(C=C1)C1=CC(CCC1)NCCC1=CC=CC=C1 | C21H25NO
catalyst | Pd/C | 0.3 g | [Pd] | Pd
solvent | MeOH | 30 ml | CO | CH4O
product | (1RS,3SR)-[3-(4-methoxy-phenyl)-cyclohexyl]-phenethyl-amine | COC1=CC=C(C=C1)C1CC(CCC1)NCCC1=CC=CC=C1 | C21H27NO
